US05639752
E. 3-(N-t-Butoxycarbonyl-1.2.5.6-tetrahydropyrid-4-yl)-5-(5-nitropyrid-2-yloxy)-1H-indole
3-(N-t-Butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-5-hydroxy-1H-indole and 2-chloro-5-nitropyridine were used. Sodium hydride (60% in oil) was the base, tetrahydrofuran was the reaction solvent, the reaction time was heated at reflux (66° C.) for 12 hours, and the chromatographic solvent system was diethyl ether/hexanes [1:3] to afford the title compound (78%) as a yellow foam: 1H NMR (CD3OD) δ8.88 (d, J=2.8 Hz, 1H), 8.39 (dd, J=2.8 and 9.1 Hz, 1H), 7.56 (d, J=2.1 Hz, 1H), 7.39 (d, J=8.7 Hz, 1H), 7.31 (s, 1H), 6.94-6.88 (m, 2H), 5.98 (br m, 1H), 4.88 (s, NH), 4.00 (br m, 2H), 3.59 (br t, J=5.3 Hz, 2H), 2.50 (br m, 2H), 1.44 (s, 9H); LRMS (m/z, relative intensity) 436 (M+, 4), 379 (68), 363 (16), 335 (29), 57 (100); TLC [methylene chloride ether, 1:1]: Rf =0.5.

reactant | 3-(N-t-Butoxycarbonyl-1,2,5,6-tetrahydropyrid-4-yl)-5-hydroxy-1H-indole | C(C)(C)(C)OC(=O)N1CC=C(CC1)C1=CNC2=CC=C(C=C12)O | C18H22N2O3
reactant | 2-chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | Sodium hydride | [H-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-(N-t-Butoxycarbonyl-1.2.5.6-tetrahydropyrid-4-yl)-5-(5-nitropyrid-2-yloxy)-1H-indole | 78% | C(C)(C)(C)OC(=O)N1CC=C(CC1)C1=CNC2=CC=C(C=C12)OC1=NC=C(C=C1)[N+](=O)[O-] | C23H24N4O5
